US07253196B2
2-(cycloheptylamino)-5-(1H-indol-3-ylmethyl)-1,3-thiazol-4(5H)-one
Synthesis was performed from (2S)-2-amino-3-(1H-indol-3-yl)propanoic acid and N-cycloheptylthiourea according to Method E and C.

reactant | (2S)-2-amino-3-(1H-indol-3-yl)propanoic acid | N[C@H](C(=O)O)CC1=CNC2=CC=CC=C12 | C11H12N2O2
reactant | N-cycloheptylthiourea | C1(CCCCCC1)NC(=S)N | C8H16N2S
product | 2-(cycloheptylamino)-5-(1H-indol-3-ylmethyl)-1,3-thiazol-4(5H)-one | C1(CCCCCC1)NC=1SC(C(N1)=O)CC1=CNC2=CC=CC=C12 | C19H23N3OS
